Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute toxic metabolic encephalopathy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History obtained from dtr, ___ records and ___ dashboard. 
Pt also interviewed with help of ___ interpreter.
_
________________________________________________________________
HPI: 
.
The patient is an ___ year old female (___ resident) with h/o 
dementia admitted with headache, lethargy, decreased po intake x 
1 day.
.
The patient is an ___ year female with h/o dementia, ___ resident 
presents from nursing home baseline demented but verbal and will 
interact. Daughter provided collateral history and initial 
translation in the ___. Per her dtr she was hospitalized a month 
ago at ___ with choking. Her dtr states patient was acting 
normally yesterday but when she came to visit pt today at noon, 
she was confused and agitated. Nursing home feels pt had been 
acting this way since 8am. 
Usually she is happy and talking but today when her dtr came she 
was not happy, sitting in a chair, holding her head saying that 
she had a headache. + dizziness. + dry heaves. She became angry 
with her dtr and told her to stop asking her questions. She did 
not eat breakfast which is unusual for her.  She occasionally 
becomes angry at baseline. No recent cough except after taking 
her pills she sneezed. When her dtr saw her the day before 
presentation her mother was well without complaints.  + Lethargy 
noted by dtr on day of presentation. + weight loss but dtr 
cannot quantify. She did not complain of pain anywhere else. No 
f/c. 
VS at ___: BP = 180/70, HR = 68, RR = 18, Metoprolol 25 mg and 
lisinopril 30 mg given. BP on re-check 160/80. Per ___ report 
"speech clear but pt does not want to talk". Pt sent to ___ 
with question of a possible stroke.  She also reported knee pain 
and was given Tylenol.
.
In ER: (Triage Vitals:0 |77 |195/77 |18 100% RA  ) 
Meds Given: None
Fluids given: Radiology Studies: Head CT/ CXR/ CTA 
consults called: neurology.
.
Upon arrival to the floor she denies any concerning symptoms 
such as pain or nausea. She does not have anything to tell me or 
ask me for. 
All other systems negative except as noted above
 
Past Medical History:
Per ___ SBAR
HTN
Delirium
Dementia with behavioral issues
Dysphagia
HLD
Anemia unspecified
Difficulty walking
 
Social History:
___
Family History:
She has two brother and two sisters who are still alive in good 
health.  One of her daughters died as a very little baby. 
 
Physical Exam:
ADMISSION EXAM:
Vitals:  97.9 Axillary 168 / 50 61 18 99 RA 
CONS: NAD, comfortable appearing. She is curled up in bed with 
the blankets over her. When I take off the blankets she keeps 
trying to put them back over her head.  She looks well. 
HEENT: ncat anicteric, + poor dentition 
No nuchal rigidity
CV: s1s2 rrr, soft SEM at ___  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
MSK:no c/c/e 2+pulses  
SKIN: no rash, no breakdown or decubitus  
NEURO: able to move all extremities, CN grossly symmetric, obeys 
the commands of the ___ interpreter over the telephone

DISCHARGE EXAM:
Vitals: 97.4 154 / 43 56 18 99 RA 
Gen: Elder lady reclined in bed, NAD
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, clear OP
CV: RRR, no r/g/m
Chest: CTAB
GI: Soft NT ND +BS
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop. Moving all extremities
purposefully.
 
Pertinent Results:
ADMISSION LABS:
___ 04:21PM URINE  HOURS-RANDOM
___ 04:21PM URINE  UHOLD-HOLD
___ 04:21PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:21PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:21PM URINE  BLOOD-TR NITRITE-NEG PROTEIN->600 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 04:21PM URINE  RBC-2 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 04:21PM URINE  HYALINE-16*
___ 04:21PM URINE  MUCOUS-RARE
___ 02:50PM   ___ COMMENTS-GREEN TOP
___ 02:50PM   LACTATE-1.6
___ 02:40PM   GLUCOSE-115* UREA N-10 CREAT-0.6 SODIUM-135 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-23 ANION GAP-15
___ 02:40PM   estGFR-Using this
___ 02:40PM   ALT(SGPT)-17 AST(SGOT)-39 ALK PHOS-52 TOT 
BILI-0.3
___ 02:40PM   cTropnT-<0.01
___ 02:40PM   ALBUMIN-2.6*
___ 02:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-10 bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 02:40PM   WBC-9.0 RBC-4.71 HGB-10.2* HCT-34.5 MCV-73* 
MCH-21.7* MCHC-29.6* RDW-16.6* RDWSD-43.2
___ 02:40PM   NEUTS-84.7* LYMPHS-11.8* MONOS-2.7* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-7.65* AbsLymp-1.07* AbsMono-0.24 
AbsEos-0.00* AbsBaso-0.02
___ 02:40PM   NEUTS-84.7* LYMPHS-11.8* MONOS-2.7* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-7.65* AbsLymp-1.07* AbsMono-0.24 
AbsEos-0.00* AbsBaso-0.02
___ 02:40PM   PLT COUNT-157
========================
ADMISSION CXR:
IMPRESSION:  
Limited lateral view due to patient's overlapping arm, however, 
no focal 
consolidation seen to suggest pneumonia. 
  .
1. No acute large territorial infarction. 
2. Left basal gangliar chronic lacune or prominent Virchow ___ 
spaces. 
3. Chronic right occipital lobe infarct with laminar necrosis. 
4. Of note MR is more sensitive in the detection of acute 
infarct. 

CTA: 
0.4 x 0.3 cm (02:22 8) aneurysmal dilatation arising off of a 
branch 
of the right superior cerebellar artery. Dominant right 
vertebral artery.  
Patent but diminutive left vertebral artery, right posterior 
cerebral artery and basilar artery. Fetal right PCA noted. 
Internal carotid arteries, vertebral arteries and their major 
branches are otherwise patent. No flow-limiting stenosis or 
evidence of dissection. 
  
0.3 cm right upper lobe pulmonary nodule (02:27). In the case of 
nodule size <= 4 mm: No follow-up needed in low-risk patients. 
For high risk patients, recommend follow-up at 12 months and if 
no change, no further imaging needed. 
  
Medialization of bilateral internal carotid arteries. 
  
Moderate narrowing of the left common carotid at the left 
carotid bulb. 
========================
DISCHARGE LABS:
___ 07:05AM BLOOD WBC-4.9 RBC-4.29 Hgb-9.2* Hct-30.2* 
MCV-70* MCH-21.4* MCHC-30.5* RDW-16.9* RDWSD-41.7 Plt ___
___ 07:05AM BLOOD Glucose-82 UreaN-10 Creat-0.7 Na-136 
K-3.8 Cl-103 HCO3-25 AnGap-___ year old ___ female (___ resident) with a 
history of dementia who was admitted with headache, lethargy, 
and decreased po intake.

# Encephalopathy
# Headache:
By the morning after admission, patient was back at her 
neurologic baseline as confirmed with her daughter at bedside. 
Neurology had been consulted with unremarkable Neurologic exam 
and head imaging without acute findings. A MRI was suggested for 
potential further evaluation, but in discussion with the 
patient's daughter, this was deferred as not within the 
patient's goals of care as being unlikely to change her mother's 
management, and potentially being anxiety-provoking as well. A1c 
was pending on discharge, TSH was within normal limits, a lipid 
panel showed a LDL of 201 but no medications were added or 
changed as the patient is on maximum dose atorvastatin. Aspirin 
was continued. 

# Anemia:
Stable anemia from admission to discharge, likely anemia of 
chronic disease. Iron sulfate supplementation was continued. 

# Hypertension:
Continued home lisinopril and Lopressor.

# Hyperlipidemia:
Continue home statin.

# Dementia:
Zyprexa can be resumed on discharge. 

TRANSITIONAL ISSUES:
- Patient's LDL was 200 despite atorvastatin 80mg daily. Zetia 
may be considered to lower this value, but may not change 
prognosis.
- TSH was within normal limits. A1c was pending on discharge.
- Patient currently on low-dose calcitriol, indication not 
clear. Continuing discontinuing. 
- A 0.3cm R upper lobe pulmonary nodule was noted on chest 
imaging. If patient is considered high-risk and within her goals 
of care, follow-up imaging can be considered in 12 months. 
# Code Status: DNR/DNI, confirmed with patient's daughter and 
___
# Contact: HCP: ___ HY (daughter) Phone number: ___ 

Greater than 30mins were spent on care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Lisinopril 30 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. OLANZapine 2.5-5 mg PO QHS 
7. Docusate Sodium 100 mg PO BID 
8. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Metoprolol Succinate XL 25 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Calcitriol 0.25 mcg PO DAILY  
4.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Lisinopril 30 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO BID  
9.  OLANZapine 2.5-5 mg PO QHS  
10.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Encephalopathy
Secondary: Dementia, Delirium, HTN

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure to care for you at the ___ ___ 
___. You were admitted for confusion and a headache 
which resolved shortly after your arrival. Your laboratory 
testing and imaging were unremarkable. No changes were made to 
your medications. Please continue to take your medications and 
follow-up with your outpatient providers as you have planned.

We wish you all the best,
Your ___ Care Team
 
Followup Instructions:
___